US05990118
Synthesis of 2-amino-6-p-methoxybenzylidenehydrazino-9H-purine [7: R2 =4-methoxyphenyl]
2-Amino-6-hydrazino-9H-purine (1.0 g, 6.1 mmol) and p-anisaldehyde (1.24 g, 9.1 mmol) were added to acetic acid (40 ml), and the mixture was stirred for 4 hours at room temperature. After completion of reaction, the solvent was evaporated under reduced pressure so as to precipitate solid crystals. The crystals were recrystallized from DMF to obtain 1.13 g (yield 66%) of colorless powdery crystals (m.p.=174° C. (decomposed)).

reactant | 2-Amino-6-hydrazino-9H-purine | 6.1 mmol, 1.0 g | NC1=NC(=C2N=CNC2=N1)NN | C5H7N7
reactant | p-anisaldehyde | 9.1 mmol, 1.24 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-amino-6-p-methoxybenzylidenehydrazino-9H-purine | 1.13 g, yield 66% | NC1=NC(=C2N=CNC2=N1)NN=CC1=CC=C(C=C1)OC | C13H13N7O
